US08754114B2
N-[3-(7-{1-[1-(Cyanoacetyl)-3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea
Cyanoacetic acid (3.1 mg, 0.036 mmol) was added to a mixture of N-[3-(7-{1-[3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea (11.9 mg, 0.0241 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (16 mg, 0.036 mmol) in N,N-dimethylformamide (0.6 mL), followed by triethylamine (10. μL, 0.072 mmol). The reaction mixture was stirred at r.t. for 1 h. The mixture was purified by RP-HPLC (pH=10) to afford the desired product. LCMS (M+H)+: m/z=563.2.

reactant | Cyanoacetic acid | 0.036 mmol, 3.1 mg | C(#N)CC(=O)O | C3H3NO2
reactant | N-[3-(7-{1-[3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | 0.0241 mmol, 11.9 mg | C(#N)CC1(CNC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C23H20F3N9O
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.036 mmol, 16 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.072 mmol | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 0.6 mL | CN(C=O)C | C3H7NO
product | N-[3-(7-{1-[1-(Cyanoacetyl)-3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | C(#N)CC(=O)N1CC(C1)(CC#N)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C26H21F3N10O2
